US09061991B2
Patent Document 1 and Example 21 of Patent Document 2 describe that trans-1,4-dibromo-2-butene is allowed to react with diethyl malonate in dichloromethane in the presence of potassium hydroxide (90% flake form) and tricaprylylmethylammonium chloride, so as to obtain 1,1-di-ethoxycarbonyl-2-vinylcyclopropane at a yield of 89%.

reactant | trans-1,4-dibromo-2-butene | BrC\C=C\CBr | C4H6Br2
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | tricaprylylmethylammonium chloride | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,1-di-ethoxycarbonyl-2-vinylcyclopropane | yield of 89% | C(C)OC(=O)C1(C(C1)C=C)C(=O)OCC | C11H16O4
